US05239080
To a solution of 4-(4-chlorophenyl)-2-oxazoleproponic acid (1.5 g) in THF (20 ml) was added lithium aluminum hydride (0.27 g), followed by stirring for 3 hours at room temperature. Water (3 ml) was added to the reaction mixture. The resultant was extracted with ethyl acetate. The ethyl acetate layer was washed with 2N-HCl and water, dried over MgSO4, and distilled to remove the solvent. The oily residue was subjected to a silica gel chromatography. Crystals of 3-[4-(4-chlorophenyl)-2-oxazolyl]propanol (1.11 g, 78%) were obtained from the fraction eluted with ethyl acetatehexane (2:1, V/V). Recrystallization from ether-hexane gave colorless prism crystals of mp 43°-44° C.

reactant | 4-(4-chlorophenyl)-2-oxazoleproponic acid | 1.5 g | ClC1=CC=C(C=C1)C=1N=C(OC1)CCC(=O)O | C12H10ClNO3
reactant | lithium aluminum hydride | 0.27 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Water | 3 ml | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 3-[4-(4-chlorophenyl)-2-oxazolyl]propanol | 1.11 g, 78% | ClC1=CC=C(C=C1)C=1N=C(OC1)CCCO | C12H12ClNO2
